US04703126
The reactor filed with Cu-chromite/BaO catalyst was heated to 610° C. Into the reactor was fed 68.4 g of 2.6-diethylaniline and 41.4 g of water per hour. The organic reaction product after 5 hours of such reaction conditions was collected and subjected to partial hydrogenation as described in Example 1. After filtering of the hydrogenation catalyst, 332.4 g of organic liquid containing 45.8 g percent of 2.6-diethylaniline and 41.0 percent of 7-ethyl indole was obtained.

reactant | 2.6-diethylaniline | 68.4 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
solvent | water | 41.4 g | O | H2O
product | 7-ethyl indole | 41.0 percent | C(C)C=1C=CC=C2C=CNC12 | C10H11N
